US08975254B2
a) (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxamide
Into a flask containing 3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxylic acid (0.148 g, 0.350 mmol) and anhydrous HOBt (0.047 g; 0.350 mmol), dichloromethane (2 ml), DIPEA (0.122 ml; 0.700 mmol) and EDCI (0.067 g; 0.350 mmol) were added and stirred for 10 min at RT. (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile (0.100 g, 0.269 mmol) dissolved in 2 ml of dichloromethane was added and the resulting mixture stirred overnight. Next day the temperature was raised to 50° C. and more EDCI (0.067 g; 0.350 mmol) was added. The reaction mixture was allowed to react with stirring for 4 h. DCM was added and the organic layer was extracted with 1M Na2CO3 and water. The organic layer was then evaporated and the residue purified with flash chromatography. LC-MS: [M+1]=684.133.

reactant | 3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxylic acid | 0.350 mmol, 0.148 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1=NOC(=N1)C(=O)O | C25H18N4O3
reactant | HOBt | 0.350 mmol, 0.047 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.700 mmol, 0.122 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.350 mmol, 0.067 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile | 0.269 mmol, 0.100 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)Cl)C | C13H12ClFN4
reactant | EDCI | 0.350 mmol, 0.067 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-trityl-1H-imidazol-4-yl)-1,2,4-oxadiazole-5-carboxamide | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NC(=NO1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H28ClFN8O2
